* 36V to 5V async buck, 100W
* D=139m, t_on=1.39u, Rload=250m
Vin in 0 36
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 220u
Rload out 0 250m
Vgate gate 0 PULSE(0 12 0 1n 1n 1.39u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
